### PR TITLE
add lemmas to `EReal.lean`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add some results for the `EReal`.

In particular:
- Add the following lemmas: `add_ne_top`, `neg_add`, `neg_sub`, `sub_self`, `sub_self_le_zero`
- Add `EReal.toENNReal` and some API lemmas
- Add instaces for heterogeneous multiplication and addition between `ℝ` and `ℝ≥0∞`, with values in `EReal`

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 1]
```diff
@@ -107,6 +112,22 @@ lemma add_sub_cancel (x : EReal) (y : ℝ) : x + y - y = x := by
 lemma add_sub_cancel' (x : EReal) (y : ℝ) : y + x - y = x := by
   rw [add_comm, EReal.add_sub_cancel]
 
+lemma neg_add {x y : EReal} (h1 : (x ≠ ⊥) ∨ (y ≠ ⊤)) (h2 : (x ≠ ⊤) ∨ (y ≠ ⊥)) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]:
```suggestion
lemma neg_add {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊤) (h2 : x ≠ ⊤ ∨ y ≠ ⊥) :
```

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 2]
```diff
@@ -107,6 +112,22 @@ lemma add_sub_cancel (x : EReal) (y : ℝ) : x + y - y = x := by
...
+    - (x + y) = - x - y := by
+  induction x using EReal.rec <;> induction y using EReal.rec <;> try tauto
+  rw [← coe_add, ← coe_neg, ← coe_neg, ← coe_sub, neg_add']
+
+lemma neg_sub {x y : EReal} (h1 : (x ≠ ⊥) ∨ (y ≠ ⊥)) (h2 : (x ≠ ⊤) ∨ (y ≠ ⊤)) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]:
```suggestion
lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y ≠ ⊤) :
```

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 3]
```diff
@@ -239,8 +260,73 @@ instance : MeasurableMul₂ EReal := by
...
+  hMul x y := (x : EReal) * y
+
+noncomputable instance : HMul ℝ≥0∞ ℝ EReal where
+  hMul x y := (x : EReal) * y
+
+noncomputable instance : HAdd ℝ ℝ≥0∞ EReal where
+  hAdd x y := (x : EReal) + y
+
+noncomputable instance : HAdd ℝ≥0∞ ℝ EReal where
+  hAdd x y := (x : EReal) + y
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]: I am not sure these are desirable. With those, you may be writing an expression with only Real and ENNReal, forget a .toReal somewhere, and suddenly you have an EReal expression, while you never intended to work with EReal at all.

Do they really help? Can we remove them from this PR and see if your code gets really worse somewhere?

Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/EReal.lean]: Removing them does not seem to break anything.
I also tried removing them in my working branch to see if they are needed in some later PR, but everything still seems to compile, so I think that we can safely remove them. 
I probably needed them inside some proof that I later modified.

**Review by RemyDegenne — APPROVED** [review]
